US07402642B2
Using a procedure identical to that described in Example 58 for the synthesis of di(4-pentenyl)malonic acid, diethyl malonate (25 g, 156 mmol) was dissolved in 150 mL dry THF in a 3 necked round bottom flask, and was reacted with NaH (18.74 g of 60% dispersion in mineral oil, 469 mmol, 3.0 eq.) and 6-bromo-1-hexene (63.6 g, 390 mmol, 2.5 eq.) and saponified/neutralized. The resultant yellow-brown oil, 2,2-di-(5-hexenyl)malonic acid, was placed in an oversized round-bottomed flask equipped with a reflux condenser, and heated with vigorous magnetic stirring to 200–210° C. using an oil bath. Gas evolution was observed upon reflux. After a 1 hour period, decarboxylation (evidenced by vigorous frothing) was complete. The mixture was cooled to room temperature and fractionally distilled at 115–118° C./0.1 torr, then further purified by flash chromatography using 15% ethyl acetate:hexanes as mobile phase to give 2-(5-hexenyl)-7-octenoic acid (9.5 g, 13.6%). 1H NMR (CDCl3): δ 11.2–12.2 (br, 1H), 5.6–6.0 (m, 2H), 4.8–5.0 (m, 4H), 2.2–2.4 (m, H), 1.9–2.1 (m, 4H), 1.8–1.9 (m, 2H), 1.2–1.8 (m, 10H) ppm.

reactant | di(4-pentenyl)malonic acid | C(CCC=C)C(C(=O)O)(C(=O)O)CCCC=C | C13H20O4
reactant | diethyl malonate | 156 mmol, 25 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | NaH | 469 mmol, 18.74 g, 3.0 eq. | [H-].[Na+]
reactant | 6-bromo-1-hexene | 390 mmol, 63.6 g, 2.5 eq. | BrCCCCC=C | C6H11Br
reactant | 2,2-di-(5-hexenyl)malonic acid | C(CCCC=C)C(C(=O)O)(C(=O)O)CCCCC=C | C15H24O4
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-(5-hexenyl)-7-octenoic acid | 9.5 g, 13.6% | C(CCCC=C)C(C(=O)O)CCCCC=C | C14H24O2
